US04416884
45 g of 5-amino-3,4-dihydrocarbostyril was suspended in 250 ml of a 15% hydrochloric acid and 250 ml of water having dissolved therein 20 g of sodium nitrite was added dropwise to the mixture followed by stirring at room temperature for 1 hour. The resulting solution was added dropwise to a solution prepared by dissolving 41.2 g of cuprous chloride in 120 ml of concentrated hydrochloric acid at room temperature while stirring. After completion of the addition, the mixture was heated on a water bath at 50° to 60° C. for 1 hour while stirring. After allowing the mixture to cool to precipitate crystals, they were collected by filtration and washed with water. The wet crystals were dissolved in chloroform and insoluble materials were removed by filtration. The residue was dried over anhydrous sodium sulfate. After removal of the solvent the residue was dissolved with heating and the solution was treated with activated carbon while hot. The ethanolic solution thus-treated was concentrated under reduced pressure. Recrystallization of the concentrate from ethanol gave 31.5 g of 5-chloro-3,4-dihydrocarbostyril having a melting point of 193° to 194° C.

reactant | 5-amino-3,4-dihydrocarbostyril | 45 g | NC1=C2CCC(NC2=CC=C1)=O | C9H10N2O
reactant | water | 250 ml | O | H2O
reactant | sodium nitrite | 20 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 120 ml | Cl | ClH
product | 5-chloro-3,4-dihydrocarbostyril | 31.5 g | ClC1=C2CCC(NC2=CC=C1)=O | C9H8ClNO
